US08835426B2
(4R,5S)-3-((1-adamantyl)methyl)-4-methyl-5-phenyloxazolidin-2-one
To an ice-cold, stirred solution of (1S,2R)-2-(1-adamantylmethylamino)-1-phenylpropan-1-ol (715 mg, 2.4 mmol) and DIEA (1.3 mL, 7.2 mmol) in CH2Cl2 (50 mL) was added solid triphosgene (233 mg, 0.79 mmol). The ice bath was allowed to melt and the mixture was stirred at rt for 3 h. The mixture was diluted with ether (150 mL), washed with 5% aq HCl (50 mL) and satd aq NaHCO3 (50 mL), and dried over MgSO4. Removal of the solvent left (4R,5S)-3-((1-adamantyl)methyl)-4-methyl-5-phenyloxazolidin-2-one as a white solid. 1H NMR (CDCl3) 0.76 (d, 3H), 1.5-1.8 (12H), 2.01 (3H), 2.52 (d, 1H), 3.30 (d, 1H), 4.09 (m, 1H), 5.63 (d, 1H), 7.25-7.40 (5H); LC-MS (3 min) tR=2.26 min, m/z=326, 348.

reactant | (1S,2R)-2-(1-adamantylmethylamino)-1-phenylpropan-1-ol | 2.4 mmol, 715 mg | C12(CC3CC(CC(C1)C3)C2)CN[C@@H]([C@@H](O)C2=CC=CC=C2)C | C20H29NO
reactant | DIEA | 7.2 mmol, 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.79 mmol, 233 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 150 mL | CCOCC | C4H10O
product | (4R,5S)-3-((1-adamantyl)methyl)-4-methyl-5-phenyloxazolidin-2-one | C12(CC3CC(CC(C1)C3)C2)CN2C(O[C@H]([C@H]2C)C2=CC=CC=C2)=O | C21H27NO2
